US08975277B2
Carbonic acid 4-nitro-phenyl ester (R)-2,2,2-trifluoro-1-methyl-ethyl ester
The title compound is prepared from (R)-1,1,1-trifluoro-propan-2-ol and 4-nitrophenyl chloroformate following a procedure analogous to that described for Intermediate 20.

reactant | (R)-1,1,1-trifluoro-propan-2-ol | FC([C@@H](C)O)(F)F | C3H5F3O
reactant | 4-nitrophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
product | Carbonic acid 4-nitro-phenyl ester (R)-2,2,2-trifluoro-1-methyl-ethyl ester | FC([C@@H](C)OC(OC1=CC=C(C=C1)[N+](=O)[O-])=O)(F)F | C10H8F3NO5
